US09061013B2
1-{2-chloro-4-[5-(3,4,5-trichloro-phenyl)-5-trifluoromethyl-4,5-dihydroisoxazol-3-yl]-phenyl}-azetidine-3-carboxylic acid methyl ester
To a stirred solution of 1-[4-(hydroxyimino-methyl)-phenyl]-azetidine-3-carboxylic acid methyl ester (Preparation 10, 0.95 g, 4.059 mmol, 1 eq.) in DMF (10 mL) was added N-chloro succinimide (0.59 g, 4.46 mmol) at room temperature. Resulting reaction mixture was stirred at 45° C. for 30 minutes. After complete consumption of starting material to chloro intermediate, reaction mixture was cooled to room temperature, potassium hydrogen carbonate (0.61 g, 6.089 mmol) was added followed by of 1,2,3-trichloro-5-(1-trifluoromethyl-vinyl)-benzene (1.33 g, 4.87 mmol) at room temperature. Resulting reaction mixture was stirred at room temperature for 18 hours under nitrogen atmosphere. After consumption of chloro intermediate, reaction mixture was quenched with ice cold water (250 mL) and extracted with EtOAc (2×200 mL). Combined organic layer was dried over anhydrous sodium sulphate and concentrated in vacuo to 1 g crude. Crude compound was purified by column chromatography (silica gel, 100-200 mesh) to afford 0.850 g impure product. Impure product was repurified by column chromatography (silica gel, 100-200 mesh) to afford 0.55 g. 1H NMR (400 MHz, CDCl3): 3.51-3.55 (m, 1H), 3.60 (d, 1H, J=17.08 Hz), 3.75 (s, 3H), 4.0 (d, 1H, J=17.04 Hz), 4.28 (t, 2H, J=7.2 Hz), 4.36 (t, 2H, J=8.36 Hz), 6.45 (d, 1H, J=8.6 Hz), 7.41 (dd, 1H, J1=1.92 Hz, J2=8.6 Hz), 7.46 (d, 1H, J=1.88 Hz), 7.62 (s, 2H); LC-MS (M+H): =542.50.

reactant | 1-[4-(hydroxyimino-methyl)-phenyl]-azetidine-3-carboxylic acid methyl ester | 4.059 mmol, 0.95 g, 1 eq. | COC(=O)C1CN(C1)C1=CC=C(C=C1)C=NO | C12H14N2O3
reactant | N-chloro succinimide | 4.46 mmol, 0.59 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | potassium hydrogen carbonate | 6.089 mmol, 0.61 g | C(O)([O-])=O.[K+]
reactant | 1,2,3-trichloro-5-(1-trifluoromethyl-vinyl)-benzene | 4.87 mmol, 1.33 g | ClC1=C(C(=CC(=C1)C(=C)C(F)(F)F)Cl)Cl | C9H4Cl3F3
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 1-{2-chloro-4-[5-(3,4,5-trichloro-phenyl)-5-trifluoromethyl-4,5-dihydroisoxazol-3-yl]-phenyl}-azetidine-3-carboxylic acid methyl ester | 0.850 g | COC(=O)C1CN(C1)C1=C(C=C(C=C1)C1=NOC(C1)(C(F)(F)F)C1=CC(=C(C(=C1)Cl)Cl)Cl)Cl | C21H15Cl4F3N2O3
